US06706423B2
A solution of dry THF containing 2-phenylindole (1 mmole) was added NaH (1.1 mmole) and MeI (1.2 mmole, dropwise), and the reaction mixture was stirred at 65° C. for 3 h. After cooling to room temperature, the reaction mixture was poured into water and extracted with ether. The extracts was dried (MgSO4) and evaporated under reduced pressure to give yellow-orange solid. Further purification by column chromatography on silica gel with hexane as an eluent gave a pale yellow solid of 1-methyl-2-phenylindole (79% yield). The solid product (0.7 mmole) was dissolved in DMF (10 ml), a mixture of POCl3(0.09 mmole) and DMF (0.09 mmole) was added dropwise. After stirring at 75° C. for 1 h, the reaction mixture was added into saturate NaHCO3solution. The precipitated solid was collected by filtration and washed with ethanol to give a pale gray solid of 1-methyl-2-phenylindole-3-carboxaldehyde (85% yield). A dry DMF solution of the aldehyde (2 mmole) was added o-aminothiophenol (2.1 mmole) and Ac2O (0.5 ml) at room temperature. The mixture was stirred at 60° C. for 3 h. The reaction mixture was poured into stirred water and the precipitated solid was collected by filtration. The crude solid was washed with MeOH and recrystallized from benzene to afford compound 1-2 (38% yield). 1H-NMR (CDCl3, TMS) δ(ppm)=3.6 (s, 3H, —CH3), 7.3-7.8, 8.1, 8.9 (m, d, m, 13H, aromatic H).

reactant | THF | C1CCOC1 | C4H8O
reactant | 2-phenylindole | 1 mmole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | NaH | 1.1 mmole | [H-].[Na+]
reactant | MeI | CI | CH3I
solvent | water | O | H2O
product | 1-methyl-2-phenylindole | 79% yield | CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H13N
